Perform Monte Carlo simulation in ngspice
* 25 stage Ring-Osc. BSIM3 or 4 with statistical variation of model parameters
* Model parameters are varied according to the PDK selection.
* Tested with 3 different commercial HSPICE libraries from 2 vendors.
* To be started with script MC_ring_ts.sp

.options noacct

vin in out dc 0.5 pulse 0.5 0 0.1n 5n 1 1 1
vdd dd 0 dc 3.3
vss ss 0 dc 0
ve  sub  0 dc 0
vpe well 0 dc 3.3

* transistors to be selected according to the library (here: p33ll and n33ll or pch_5_mac and nch_5_mac
* or pe3 and ne3 or p1 and n1 (these models see below))
.subckt inv1 dd ss sub well in out
*XMP1 out in  dd  well p33ll w=5u l=800n m=3 nf=1 ad=1.35p as=1.35p pd=9.6u ps=9.6u mosmis_mod=1
*XMN1 out in  ss  sub n33ll w=5u l=800n m=1 nf=3 ad=0.9p as=0.9p pd=6.6u ps=6.6u mosmis_mod=1
*XMP1 out in  dd  well pch_5_mac w=5u l=800n m=3 nf=1 ad=1.35p as=1.35p pd=9.6u ps=9.6u mosmis_mod=1
*XMN1 out in  ss  sub nch_5_mac w=5u l=800n m=1 nf=3 ad=0.9p as=0.9p pd=6.6u ps=6.6u mosmis_mod=1
*XMP1 out in  dd  well pe3 w=5u l=800n m=3 nf=1 ad=1.35p as=1.35p pd=9.6u ps=9.6u mosmis_mod=1
*XMN1 out in  ss  sub ne3 w=5u l=800n m=1 nf=3 ad=0.9p as=0.9p pd=6.6u ps=6.6u mosmis_mod=1
MP1 out in  dd  well p1 w=5u l=800n m=3 ad=1.35p as=1.35p pd=9.6u ps=9.6u
MN1 out in  ss  sub n1 w=5u l=800n m=1 ad=0.9p as=0.9p pd=6.6u ps=6.6u
.ends inv1

.subckt inv5 dd ss sub well in out
xinv1 dd ss sub well in 1 inv1
xinv2 dd ss sub well 1  2 inv1
xinv3 dd ss sub well 2  3 inv1
xinv4 dd ss sub well 3  4 inv1
xinv5 dd ss sub well 4 out inv1
.ends inv5

xinv1 dd ss sub well in out5 inv5
xinv2 dd ss sub well out5 out10 inv5
xinv3 dd ss sub well out10 out15 inv5
xinv4 dd ss sub well out15 out20 inv5
xinv5 dd ss sub well out20 out inv5
xinv11 dd 0 sub well out buf inv1
cout  buf ss 0.2pF

 *** Model library files.
* Add your library here
* Chose the transistors for XMP1 and XMN1 accordingly
*.lib "jc_usage.l" MC_LIB
*.lib "my_ts_usage.l" MC_LIB
*.lib "x_usage.l" MC_LIB

* or use the BSIM3 model with internal parameters except Vth0
* that varies the threshold voltage +-3 sigma around a mean of +-0.6V
.model p1 PMOS version=3.3.0 Level=8 Vth0=agauss(-0.6, 0.1, 3)
.model n1 NMOS version=3.3.0 Level=8 Vth0=agauss(0.6, 0.1, 3)

.end
